US06291455B1
A mixture of 4-chloro-6,7-dimethoxyquinazoline hydrochloride (130 mg, 0.5 mmol), (prepared as described for the starting material in Example 2), and 4-bromo-2-fluoroaniline (95 mg, 0.5 mmol) in isopropanol (7 ml) was heated at reflux for 2 hours. The mixture was allowed to cool to ambient temperature, the precipitated solid was collected by filtration, washed with isopropanol and ether and dried to give 4-(4-bromo-2-fluoroanilino)-6,7-dimethoxyquinazoline hydrochloride (124 mg, 60%) as an off-white solid. HPLC characteristics:

reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 0.5 mmol, 130 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 4-bromo-2-fluoroaniline | 0.5 mmol, 95 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 4-(4-bromo-2-fluoroanilino)-6,7-dimethoxyquinazoline hydrochloride | 124 mg, 60% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)F | InChI=1S/C16H13BrFN3O2.ClH/c1-22-14-6-10-13(7-15(14)23-2)19-8-20-16(10)21-12-4-3-9(17)5-11(12)18;/h3-8H,1-2H3,(H,19,20,21);1H
